### PR TITLE
[Merged by Bors] - feat(Geometry/Convex): star-convex sets in a convex space

### PR DESCRIPTION
**Pull request by YaelDillies**
Define `IsStarConvexSet`,a predicate for a set in a `ConvexSpace` to be star-convex at a point. Add a few lemmas about `IsAffineMap` as preliminaries to lemmas about star-convex sets in a module.

The existing `Module`-specific `StarConvex` predicate will be deprecated in a future PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by b-mehta — COMMENTED** [review]
We already have [StarConvex](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Convex/Star.html#StarConvex) but I'm guessing this is in greater generality? It would be nice to 
- mention this in the docstring, and explain why we have two (perhaps this is temporary)
- have some link between them

File: Mathlib/Geometry/Convex/Star.lean [hunk 1]
```diff
@@ -0,0 +1,110 @@
...
+Incidentally, this choice means we don't need to assume a set is nonempty for it to be star-convex.
+Concretely, the empty set is star-convex at every point.
+-/
+
+open Finsupp Set
+
+public noncomputable section
+
+namespace Convexity
+variable {ι R X Y : Type*}
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/Star.lean]: You only use `ι` as a Type* once in this file, everywhere else you make a new one as a Sort! Perhaps it makes sense to do it the other way round :)

File: Mathlib/Geometry/Convex/Star.lean [hunk 2]
```diff
@@ -0,0 +1,110 @@
...
+
+@[simp] protected lemma IsStarConvexSet.empty : IsStarConvexSet R x ∅ := by simp [IsStarConvexSet]
+
+@[simp]
+protected lemma IsStarConvexSet.univ : IsStarConvexSet R x .univ := by simp [IsStarConvexSet]
+
+@[simp] protected lemma IsStarConvexSet.singleton : IsStarConvexSet R x {x} := by
+  simp [IsStarConvexSet]
+
+protected lemma IsStarConvexSet.inter (hs : IsStarConvexSet R x s) (ht : IsStarConvexSet R x t) :
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/Star.lean:61]:
```suggestion
@[grind ←]
protected lemma IsStarConvexSet.inter (hs : IsStarConvexSet R x s) (ht : IsStarConvexSet R x t) :
```

File: Mathlib/Geometry/Convex/Star.lean [hunk 3]
```diff
@@ -0,0 +1,110 @@
...
+    IsStarConvexSet R x (s ∩ t) := by simp +contextual [IsStarConvexSet, hs _, ht _]
+
+protected lemma IsStarConvexSet.union (hs : IsStarConvexSet R x s) (ht : IsStarConvexSet R x t) :
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/Star.lean:65]:
```suggestion
@[grind ←]
protected lemma IsStarConvexSet.union (hs : IsStarConvexSet R x s) (ht : IsStarConvexSet R x t) :
```

File: Mathlib/Geometry/Convex/Star.lean [hunk 4]
```diff
@@ -0,0 +1,110 @@
...
+
+protected lemma IsStarConvexSet.iInter {ι : Sort*} {s : ι → Set X}
+    (hs : ∀ i, IsStarConvexSet R x (s i)) : IsStarConvexSet R x (⋂ i, s i) := by
+  simp +contextual [IsStarConvexSet, hs _ _]
+
+lemma IsStarConvexSet.iInter₂ {ι : Sort*} {κ : ι → Sort*} {s : ∀ i, κ i → Set X}
+    (h : ∀ i j, IsStarConvexSet R x (s i j)) : IsStarConvexSet R x (⋂ i, ⋂ j, s i j) :=
+  .iInter fun i ↦ .iInter <| h i
+
+protected lemma IsStarConvexSet.sUnion {S : Set (Set X)} (hS : ∀ s ∈ S, IsStarConvexSet R x s) :
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/Star.lean:80]:
```suggestion
@[grind ←]
protected lemma IsStarConvexSet.sUnion {S : Set (Set X)} (hS : ∀ s ∈ S, IsStarConvexSet R x s) :
```

File: Mathlib/Geometry/Convex/Star.lean [hunk 5]
```diff
@@ -0,0 +1,110 @@
...
+
+protected lemma IsStarConvexSet.preimage {s : Set Y} (hf : IsAffineMap R f)
+    (hs : IsStarConvexSet R (f x) s) : IsStarConvexSet R x (f ⁻¹' s) :=
+  fun y hy a b ha hb hab ↦ by simpa [mem_preimage, hf.map_convexCombPair] using hs hy _ ..
+
+protected lemma IsStarConvexSet.image (hf : IsAffineMap R f) (hs : IsStarConvexSet R x s) :
+    IsStarConvexSet R (f x) (f '' s) := by
+  rintro _ ⟨y, hy, rfl⟩ a b ha hb hab; exact ⟨_, hs hy _ .., hf.map_convexCombPair ..⟩
+
+protected lemma IsStarConvexSet.prod {t : Set Y} {y : Y} (hs : IsStarConvexSet R x s)
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/Star.lean:109]:
```suggestion
@[grind ←]
protected lemma IsStarConvexSet.prod {t : Set Y} {y : Y} (hs : IsStarConvexSet R x s)
```

File: Mathlib/Geometry/Convex/Star.lean [hunk 6]
```diff
@@ -0,0 +1,110 @@
...
+  fun _y hy _a _b _ha _hb _hab ↦ hs.convexCombPair_mem hx hy ..
+
+lemma IsStarConvexSet.mem (hs : IsStarConvexSet R x s) (hs₀ : s.Nonempty) : x ∈ s := by
+  obtain ⟨y, hy⟩ := hs₀; simpa using hs hy zero_le_one le_rfl (add_zero _)
+
+protected lemma IsStarConvexSet.preimage {s : Set Y} (hf : IsAffineMap R f)
+    (hs : IsStarConvexSet R (f x) s) : IsStarConvexSet R x (f ⁻¹' s) :=
+  fun y hy a b ha hb hab ↦ by simpa [mem_preimage, hf.map_convexCombPair] using hs hy _ ..
+
+protected lemma IsStarConvexSet.image (hf : IsAffineMap R f) (hs : IsStarConvexSet R x s) :
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/Star.lean:104]:
```suggestion
@[grind ←]
protected lemma IsStarConvexSet.image (hf : IsAffineMap R f) (hs : IsStarConvexSet R x s) :
```

Comment (b-mehta) [reply Mathlib/Geometry/Convex/Star.lean:104]: Or maybe `grind <=` here, in case that fails

Comment (b-mehta) [reply Mathlib/Geometry/Convex/Star.lean:104]: similar for the `preimage` one

File: Mathlib/Geometry/Convex/Star.lean [hunk 7]
```diff
@@ -0,0 +1,110 @@
...
+advantage of allowing us to talk about convexity as being "everywhere star-convexity" and of making
+the union of star-convex sets be star-convex.
+
+Incidentally, this choice means we don't need to assume a set is nonempty for it to be star-convex.
+Concretely, the empty set is star-convex at every point.
+-/
+
+open Finsupp Set
+
+public noncomputable section
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/Star.lean]: I'd expect this doesn't need to be noncomputable?

**Review by b-mehta — APPROVED** [review]
Looks generally nice!

File: Mathlib/Geometry/Convex/Star.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/Star.lean:104]: Oh, `grind ←` and `grind <=` meaning different things is evil

**Comment by b-mehta** [comment]
It looks like your new changes do a bunch of things unrelated to star-convexity. And these changes aren't in the PR description.
Was this accidental?

**Comment by YaelDillies** [comment]
I have added more lemmas about star-convexity I realised I needed in order to deprecate the `StarConvex` API, as well as required preliminary lemmas

File: Mathlib/Geometry/Convex/Star.lean [hunk 8]
```diff
@@ -0,0 +1,118 @@
...
+    (h : ∀ i j, IsStarConvexSet R x (s i j)) : IsStarConvexSet R x (⋃ i, ⋃ j, s i j) :=
+  .iUnion fun i ↦ .iUnion <| h i
+
+lemma IsConvexSet.isStarConvexSet (hs : IsConvexSet R s) (hx : x ∈ s) : IsStarConvexSet R x s :=
+  fun _y hy _a _b _ha _hb _hab ↦ hs.convexCombPair_mem hx hy ..
+
+lemma IsStarConvexSet.mem (hs : IsStarConvexSet R x s) (hs₀ : s.Nonempty) : x ∈ s := by
+  obtain ⟨y, hy⟩ := hs₀; simpa using hs hy zero_le_one le_rfl (add_zero _)
+
+@[grind ←]
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/Star.lean:98]: Just to confirm, is it intentional that this is different from the image one? I'd guess they should have the same tag

Comment (YaelDillies) [reply Mathlib/Geometry/Convex/Star.lean:98]: Yes, the `image` one was rejected, but not this one (probably because this one is about `IsStarConvexSet R x` instead of `IsStarConvexSet R (f x)`?)

**Comment by b-mehta** [comment]
> I have added more lemmas about star-convexity I realised I needed in order to deprecate the `StarConvex` API, as well as required preliminary lemmas

I'm not sure I follow. Lemmas like `IsAffineMap.add` aren't about `StarConvex`, nor is it required for any of the other things in this PR, so it seems to fit into neither of these categories. In addition, these unrelated changes aren't in your PR description, and both points of my [comment above](https://github.com/leanprover-community/mathlib4/pull/40230#pullrequestreview-4429763098) are still outstanding. So I will put this back to awaiting-author, until these three are addressed!

**Comment by YaelDillies** [comment]
`IsAffineMap.add` is required for the `fun_prop` call here to succeed:
https://github.com/leanprover-community/mathlib4/pull/40230/files#diff-1db65ad9421d04dd0844a369b7d7533626ce3e5c40c824e7d030190a3e2fde33R131

**Comment by YaelDillies** [comment]
> * have some link between them

This will wait until #40235 if you don't mind.

File: Mathlib/Geometry/Convex/Star.lean (hunk 8 above)
Comment (b-mehta) [reply Mathlib/Geometry/Convex/Star.lean:98]: hmm, weird, okay

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
